US05827855
74-(1) (4R,6R)-6-{2-[(1S,2S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-8-(2,2-diethyl-4-pentenoyloxy)-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one
A procedure similar to that described in Example 6, above, was followed, but using 1.26 g (3.0 mmol) of (4R,6R)-6-{2-[(1S,2S,8S,8aR)-1,2,6,7,8,8a-hexahydro-8-hydroxy-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one [prepared as described in Japanese Patent Kokai Application No. Sho 59-175450] and 2.09 g (12.2 mmol) of 2,2-diethyl-4-pentenoyl chloride, to provide 1.30 g of the title compound.

reactant | (4R,6R)-6-{2-[(1S,2S,8S,8aR)-1,2,6,7,8,8a-hexahydro-8-hydroxy-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 3.0 mmol, 1.26 g | O[C@H]1CCC=C2C=C[C@@H]([C@@H]([C@@H]12)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C | C24H40O4Si
reactant | 2,2-diethyl-4-pentenoyl chloride | 12.2 mmol, 2.09 g | C(C)C(C(=O)Cl)(CC=C)CC | C9H15ClO
product | (4R,6R)-6-{2-[(1S,2S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-8-(2,2-diethyl-4-pentenoyloxy)-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 1.30 g | C(C)C(C(=O)O[C@H]1CCC=C2C=C[C@@H]([C@@H]([C@@H]12)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C)(CC=C)CC | C33H54O5Si
